US09216173B2
To a suspension of 5-[(2,4-dimethoxybenzyl)amino]-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carbonitrile (240 mg, 0.62 mmol) in dichloromethane (5 mL) was added trifluoroacetic acid (0.96 mL, 12.5 mmol) dropwise, and the reaction mixture was stirred for 10 minutes. The reaction mixture was diluted with ethyl acetate and aqueous saturated sodium bicarbonate. The organic layer was separated, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (0-65% ethyl acetate/hexanes, linear gradient) to afford 5-amino-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carbonitrile. MS ESI calc'd for C13H14N5 [M+H]+ 240. found 240. 1H NMR (500 MHz, DMSO-d6) δ 8.59 (s, 1H), 7.61 (d, J=2.3 Hz, 1H), 7.36 (d, J=2.2 Hz, 1H), 6.57 (s, 1H), 6.55 (s, 1H), 6.25 (s, 2H), 2.28 (s, 3H), 2.18 (s, 3H).

reactant | 5-[(2,4-dimethoxybenzyl)amino]-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carbonitrile | 0.62 mmol, 240 mg | COC1=C(CNC=2C=C(C(=NC2)C#N)NC2=NC(=CC(=C2)C)C)C=CC(=C1)OC | C22H23N5O2
reactant | trifluoroacetic acid | 12.5 mmol, 0.96 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 5-amino-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carbonitrile | NC=1C=C(C(=NC1)C#N)NC1=NC(=CC(=C1)C)C | C13H13N5
